US08022206B2
Intermediate 12: 4-[4-(7-Hydroxy-6-nitrofuro[3,2-c]pyridin-3-yl)-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester
A mixture of the crude 6-Nitro-3-(1-piperidin-4-yl-1H-pyrazol-4-yl)-furo[3,2-c]pyridin-7-ol (0.200 g, 0.607 mmol), Di-tert-butyldicarbonate (0.179 g, 0.820 mol) and DIPEA (0.212 g, 1.64 mmol) in DCM (5 mL) was stirred at 0° C. and then warmed up to rt for 2 h. The reaction mixture was diluted with DCM (10 mL) and then washed with water (3×15 mL) and brine (20 mL). The resulting DCM solution was dried over Na2SO4, concentrated under reduced pressure and then purified by silica gel (5% MeOH in DCM) to afford the title compound. 1H-NMR (CD3OD, 400 MHz): δ=1.48 (s, 9H), 1.99 (dd, J=12.4, 4.3 Hz, 2H), 2.10-2.17 (m, 2H), 2.92-3.07 (m, 2H), 4.24 (d, J=13.9 Hz, 2H), 4.46 (s, 1H), 7.95 (s, 1H), 8.26 (s, 1H), 8.37 (s, 1H), 8.55 (s, 1H). MS (ES+): m/z 430.04 [MH+]. HPLC: tR=3.39 min (polar—5 min, ZQ3).

reactant | 6-Nitro-3-(1-piperidin-4-yl-1H-pyrazol-4-yl)-furo[3,2-c]pyridin-7-ol | 0.607 mmol, 0.200 g | [N+](=O)([O-])C1=C(C2=C(C=N1)C(=CO2)C=2C=NN(C2)C2CCNCC2)O | C15H15N5O4
reactant | Di-tert-butyldicarbonate | 0.820 mol, 0.179 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIPEA | 1.64 mmol, 0.212 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-(7-Hydroxy-6-nitrofuro[3,2-c]pyridin-3-yl)-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C1=COC2=C1C=NC(=C2O)[N+](=O)[O-] | C20H23N5O6
